US07842688B2
c) Benzyl 3-[4-(2-aminoethyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 0.660 g of benzyl 3-[4-(2-azidoethyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}piperidine-1-carboxylate in 2.5 ml of tetrahydrofuran and 0.55 ml of water is admixed at room temperature with a solution of 0.55 ml of 25% conc. ammonia in 2.4 ml of methanol. After 0.357 g of triphenylphosphine has been added, the reaction mixture is stirred at room temperature over 16 hours. The reaction mixture is poured onto water (40 ml) and extracted with tert-butyl methyl ether (3×40 ml). The organic phases are washed with brine (20 ml), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.31 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=5.01.

reactant | benzyl 3-[4-(2-azidoethyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}piperidine-1-carboxylate | 0.660 g | N(=[N+]=[N-])CCN1C(COC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCCOC2=C(C=CC(=C2)F)F)C(=O)OCC2=CC=CC=C2)=O | C39H39F2N5O7
reactant | ammonia | 0.55 ml | N | H3N
reactant | triphenylphosphine | 0.357 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | water | 0.55 ml | O | H2O
solvent | methanol | 2.4 ml | CO | CH4O
product | Benzyl 3-[4-(2-aminoethyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}piperidine-1-carboxylate | NCCN1C(COC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCCOC2=C(C=CC(=C2)F)F)C(=O)OCC2=CC=CC=C2)=O | C39H41F2N3O7
